US05190958
(i) Preparation of N-benzyl morpholin-3-one
A solution of N-benzyl ethanolamine (60.4 g, 0.40 mol) in toluene (400 ml) was added over a period of 1 hour to a mechanically stirred suspension of sodium hydride (60% dispersion in mineral oil, 17.6 g, 0.44 mol) in toluene (800 ml). The reaction was heated under reflux for 2 hours before being cooled to room temperature and a solution of ethyl bromoacetate (44.4 ml, 0.40 mol) in toluene (600 ml) added over a period of 30 minutes. The reaction was then heated under reflux for 15 hours before being cooled to room temperature and water (1000 ml) added. The aqueous phase was extracted with ethyl acetate (3×200 ml) and the combined organic phases washed with brine (500 ml), dried with sodium sulphate and evaporated in vacuo. The resulting oil was purified by flash column chromatography upon silica gel using ethyl acetate: hexanes: triethylamine (70:28:2) as eluant affording the desired product as a yellow oil, 32 g, M+ found: 191.

reactant | N-benzyl ethanolamine | 0.40 mol, 60.4 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | sodium hydride | 0.44 mol, 17.6 g | [H-].[Na+]
reactant | ethyl bromoacetate | 0.40 mol, 44.4 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | 1000 ml | O | H2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl morpholin-3-one | C(C1=CC=CC=C1)N1C(COCC1)=O | C11H13NO2
